US04134980
1-[4-Methyl-6,7-dimethoxy-1(2H)-phthalazinone-2-yl]-3-[N-methyl-N-(2-(4-methoxy-phenyl)-ethyl)-amino]-propane hydrochloride
Produced analogously to Example 2 (b) by reaction of 1-[4-methyl-6,7-dimethoxy-1-(2H)-phthalazinone-2-yl]-3-chloro-propane with N-(4-methoxy-phenylethyl)-N-methyl-amine in chlorobenzene. M. p.: 210 - 212° C.

reactant | 1-[4-methyl-6,7-dimethoxy-1-(2H)-phthalazinone-2-yl]-3-chloro-propane | CC1=NN(C(C2=CC(=C(C=C12)OC)OC)=O)CCCCl | C14H17ClN2O3
reactant | N-(4-methoxy-phenylethyl)-N-methyl-amine | COC1=CC=C(C=C1)CCNC | C10H15NO
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 1-[4-Methyl-6,7-dimethoxy-1(2H)-phthalazinone-2-yl]-3-[N-methyl-N-(2-(4-methoxy-phenyl)-ethyl)-amino]-propane hydrochloride | Cl.CC1=NN(C(C2=CC(=C(C=C12)OC)OC)=O)CCCN(CCC1=CC=C(C=C1)OC)C | InChI=1S/C24H31N3O4.ClH/c1-17-20-15-22(30-4)23(31-5)16-21(20)24(28)27(25-17)13-6-12-26(2)14-11-18-7-9-19(29-3)10-8-18;/h7-10,15-16H,6,11-14H2,1-5H3;1H
